US04374773
22.6 g (64.5 mmol) of 6-(o-fluorophenyl)-4,4-dimethyl-8-nitro-4H-s-triazolo[4,3-a][1,4]benzodiazepine, dissolved in 200 ml of concentrated hydrochloric acid, are treated portionwise with a total of 43.66 g (0.19 mol) of tin chloride in such a manner that the temperature does not exceed 85° C. The mixture is stirred at room temperature for a further 1 hour, cautiously neutralised with 10 N sodium hydroxide while cooling with ice and extracted with chloroform/ethanol (9:1) in a perforator. After removing the solvent, the residue is suspended in hot ethyl acetate and filtered off, there being obtained 8-amino-6-(o-fluorophenyl)-4,4-dimethyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 288° C.

reactant | 6-(o-fluorophenyl)-4,4-dimethyl-8-nitro-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 64.5 mmol, 22.6 g | FC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(C=C3)[N+](=O)[O-])C=NN2)(C)C | C18H14FN5O2
reactant | tin chloride | 0.19 mol, 43.66 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 8-amino-6-(o-fluorophenyl)-4,4-dimethyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NC=1C=CC2=C(C(=NC(C=3N2C=NN3)(C)C)C3=C(C=CC=C3)F)C1 | C18H16FN5
